US05547962
Ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate
To a solution of 27.1 g of ethyl 3-cyclopropylamino-2-(2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acrylate in 270 ml of 1,4-dioxane, 3.2 g of sodium hydride (60% mineral oil dispersion) was added by portions and stirred at room temperature for one hour. 300 ml of water was added to the reaction mixture and the deposited crystals were collected by filtration to give 19.5 g of the desired compound as colorless crystals, which was recrystallized from N,N-dimethylformamide to provide colorless needles, m.p. 260°-263° C.

reactant | ethyl 3-cyclopropylamino-2-(2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acrylate | 27.1 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1[N+](=O)[O-])F)F)C)F)=O | C16H15F3N2O5
reactant | sodium hydride | 3.2 g | [H-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | 1,4-dioxane | 270 ml | O1CCOCC1 | C4H8O2
product | Ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate | 19.5 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)C)F)F)[N+](=O)[O-])=O)C(=O)OCC | C16H14F2N2O5
